US04609662
9-(2-Acetoxyethylthiomethyl)-2-amino-9H-purine
A 100 ml flask equipped with a magnetic stirring bar and a CaCl2 drying tube was charged with 1.0 g (4.4 mM) 2-amino-9-(2-hydroxyethylthiomethyl)-9H-purine, 0.054 g (0.44 mM) 4-dimethylaminopyridine, 0.9 ml (8.8 mM) acetic anhydride, and 200 ml of dry DMF. The solution was stirred for 24 hrs at room temperature and then quenched with 5 ml of MeOH. The solution was evaporated in vacuo (bath temp 40° C.) and the brown oil so obtained chromatographed using the "flash" method. Elution of the column with 1.5% methanol in ethyl acetate provided a yellow oil which crystallized on standing. The light yellow crystals were dissolved in a solution of 2% MeOH in toluene and treated with 0.05 g Darco G-60. The methanol was evaporated from the toluene solution resulting in the precipitation of light yellow crystals. The product was dried for 16 hrs at 78° C. to yield the title compound, mpt. 119°-120.5° C. Anal. Calcd. for C10H13N5O2S: C, 44.93; H, 4.9; N, 26.20. Found: C, 44.97, H, 4.96; N, 26.17. 1H NMR in DMSO 6 8.59 (1HS), 8.15 (1Hs), 6.52 (2H broad s) 5.26 (2Hs), 4.15 (2Ht J=6.36 Hz), 2.89 (2Ht J=6.36 Hz), 1.99 (3Hs).

reactant | 2-amino-9-(2-hydroxyethylthiomethyl)-9H-purine | 4.4 mM, 1.0 g | NC1=NC=C2N=CN(C2=N1)CSCCO | C8H11N5OS
reactant | acetic anhydride | 8.8 mM, 0.9 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | 0.44 mM, 0.054 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 9-(2-Acetoxyethylthiomethyl)-2-amino-9H-purine | C(C)(=O)OCCSCN1C2=NC(=NC=C2N=C1)N | C10H13N5O2S
